US04753953
To a solution of benzylamine (75 g) in ethanol (150 ml) was added ethyl methacrylate (240 g) and refluxed for 23 hours. The reaction mixture was evaporated and the resulting residue was distilled under reduced pressure to give N-(2-ethoxycarbonylpropyl)benzylamine (93.3 g) as colorless liquid, bp 122° C./4 mmHg.

reactant | benzylamine | 75 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl methacrylate | 240 g | C(C(=C)C)(=O)OCC | C6H10O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(2-ethoxycarbonylpropyl)benzylamine | 93.3 g | C(C)OC(=O)C(CNCC1=CC=CC=C1)C | C13H19NO2
